US05128335
3,5-DIBROMOTHIOANISOLE
A 2.5M solution of n-butyllithium (42 mL; 0.105M) was added over 25 mins. to a vigorously stirred suspension of 1,3,5-tribromobenzene (31.5 G; 0.1M) in 1.6 L of anhydrous ether and 400 mL of anhydrous tetrahydrofuran under nitrogen at -78°. After stirring the mixture 30 minutes, 2 equivalents of dimethyldisulfide was added dropwise. The resulting mixture was stirred at R.T. overnight. 150 mL of sat'd sodium chloride solution was cautiously added. 500 mL of ethyl acetate was added. The organic phase was separated, and dried over anhyd. magnesium sulfate. Solvent removal gave a crude product, which was purified on silica gel using hexane as solvent. The desired product was isolated and distilled at 107°-110°/~1 mm to give 18 G of 3,5-dibromothioanisole as a colorless liquid, which slowly solidified on standing.

reactant | n-butyllithium | 0.105M, 42 mL | C(CCC)[Li]
reactant | 1,3,5-tribromobenzene | 0.1M | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | dimethyldisulfide | 2 equivalents | CSSC | C2H6S2
reactant | sodium chloride | 150 mL | [Cl-].[Na+]
solvent | ether | 1.6 L | CCOCC | C4H10O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 3,5-DIBROMOTHIOANISOLE | BrC=1C=C(C=C(C1)Br)SC | C7H6Br2S
